US08258158B2
4-Fluoro-piperidine-4-carboxylic acid ethyl ester (1.263 g), synthesis described in patent application US2004/10013, was dissolved in pyridine (70 ml) and p-toluenesulfonyl chloride (1.512 g) was added and the mixture was stirred at RT for 48 h under an argon atmosphere. Then the solvent was evaporated off, the residue partitioned between AcOEt and aqueous HCl, the organic layer was separated, washed with brine, dried over sodium sulphate and concentratedin vacuo to give a brown oil which was purified by flash chromatography (AcOEt/Heptane, gradient from 0 to 25%) to give the desired 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid ethyl ester (2.086 g) as a white solid. MS (ESI): 330.0 (MH+).

reactant | 4-Fluoro-piperidine-4-carboxylic acid ethyl ester | 1.263 g | C(C)OC(=O)C1(CCNCC1)F | C8H14FNO2
reactant | p-toluenesulfonyl chloride | 1.512 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid ethyl ester | 2.086 g | C(C)OC(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)F | C15H20FNO4S
